US03941815
The same procedure as in Example 1 was repeated except that 10.0 g of 1,4-naphthoquinone was added to 200 g of a mixed acid consisting of 83 percent by weight of sulfuric acid, 4 percent by weight of nitric acid and 13 percent by weight of water with maintaining a temperature of 5° to 10°C, to obtain 8.9 g of brown-colored crude 5-nitro-1,4-naphthoquinone of a melting point of 140°C. The D.V.S. of the reaction mixture after reaction was 6.1. The crude product was purified to obtain the similar results with Example 1.

reactant | 1,4-naphthoquinone | 10.0 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 5-nitro-1,4-naphthoquinone | 8.9 g | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
